US05681833
b) (2-Aminophenyl) cyclohexyl methanone
A solution of (2-acetamidophenyl) cyclohexyl methanone (0.53 g) in methanol (5 ml) and concentrated hydrochloric acid (15 ml) was heated at 80° C. for 1 hour. After this time the solution was cooled to ambient temperature and the solvents removed in vacuo. The residue was dissolved in water (10 ml) and basified with 4N sodium hydroxide solution (20 ml). The mixture was then extracted into ethyl acetate (4×20 ml) and the organic layers combined and dried (MgSO4). The solvent was evaporated and the residue chromatographed on silica gel using petrol:ethyl acetate (2:1), to afford the title compound (0.40 g) as a solid. The spectroscopic properties of this material were identical to those described in Method A.

reactant | (2-acetamidophenyl) cyclohexyl methanone | 0.53 g | C(C)(=O)NC1=C(C=CC=C1)C(=O)C1CCCCC1 | C15H19NO2
solvent | methanol | 5 ml | CO | CH4O
solvent | hydrochloric acid | 15 ml | Cl | ClH
product | (2-Aminophenyl) cyclohexyl methanone | 0.40 g | NC1=C(C=CC=C1)C(=O)C1CCCCC1 | C13H17NO
